US08293768B2
Preparation of N-benzyl-2-(3-(2,2-dimethoxyethyl)-3-(4-fluorophenyl)ureido)-4-methylthiazole-5-carboxamide
To a solution of 2-amino-N-benzyl-4-methylthiazole-5-carboxamide (0.37 g, 1.50 mmol) in tetrahydrofuran (20 mL) was added 1,1′-carbonyldiimidazole (0.31 g, 1.91 mmol) at ambient temperature. The resulting reaction mixture was stirred at ambient temperature for 11 hours, followed by the addition of N-(2,2-dimethoxyethyl)-4-fluoroaniline (0.40 g, 2.00 mmol). The reaction mixture was kept stirring for 17 hour at ambient temperature. The solvent was removed in vacuo, and the residue was purified by column chromatography to afford the title compound in 68% yield (0.48 g): 1H NMR (300 MHz, CDCl3) δ 7.36-7.12 (m, 10H), 5.89 (t, J=5.7 Hz, 1H), 4.61 (t, J=5.4 Hz, 1H), 4.53 (d, J=5.4 Hz, 2H), 3.76 (t, J=5.7 Hz, 2H), 3.31 (s, 6H), 2.51 (s, 3H); MS (ES+) m/z 473.4 (M+1).

reactant | 2-amino-N-benzyl-4-methylthiazole-5-carboxamide | 1.50 mmol, 0.37 g | NC=1SC(=C(N1)C)C(=O)NCC1=CC=CC=C1 | C12H13N3OS
reactant | 1,1′-carbonyldiimidazole | 1.91 mmol, 0.31 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-(2,2-dimethoxyethyl)-4-fluoroaniline | 2.00 mmol, 0.40 g | COC(CNC1=CC=C(C=C1)F)OC | C10H14FNO2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-benzyl-2-(3-(2,2-dimethoxyethyl)-3-(4-fluorophenyl)ureido)-4-methylthiazole-5-carboxamide | 68% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(=O)N(C1=CC=C(C=C1)F)CC(OC)OC)C | C23H25FN4O4S
